US05922914
3,4-Dihydro-6-methyl-4-phenyl-2H-benzopyran-2-one (III)
retention times are: t-cinnamic acid=3.3 min., p-cresol=4.2 min. and the title compound=20.3 min.) or TLC (acetone/cyclohexane (20/80), acetic acid (0.5%); wavelength=254 nm) usually 6 hours. When the reaction is complete the mixture is cooled to 100° and added to a prewarmed separatory funnel (500 mL). The bottom layer containing the sulfuric acid is removed and toluene (280 mL), water (50 mL) and potassium carbonate (47%, 10 mL) are added to the separatory funnel containing the crude product. If necessary the pH of the aqueous layer is adjusted to between 5-8 with additional 47% potassium carbonate. The layers are separated and the organic layer is then washed once with water (50 mL). The organic layer is concentrated to a final volume of approximately 150 mL under reduced pressure. Isopropanol (350 mL) is then added, and distillation is continued to a volume of 350 mL. Isopropanol (150 mL) is again added and again distilled to 350 mL. Isopropanol (150 mL) is again added and again distilled to 350 mL. The mixture is then cooled to 30-40° with rapid stirring until the product crystallizes. The rapid stirring is continued after crystallization. The product is cooled to 0-5° and held at this temperature for approximately 1 hour, filtered and washed with isopropanol (200 mL) cooled to 0-5°. If the last portion of the wash is colored the wash is continued until no more color is removed. The solids are then dried at 60° under reduced pressure to give the title compound, mp (uncorrected)=83°-85°.

reactant | t-cinnamic acid | C1=CC=C(C=C1)/C=C/C(=O)O | C9H8O2
reactant | p-cresol | C1=CC(=CC=C1O)C | C7H8O
product | 3,4-Dihydro-6-methyl-4-phenyl-2H-benzopyran-2-one | CC=1C=CC2=C(C(CC(O2)=O)C2=CC=CC=C2)C1 | C16H14O2
